US09193669B2
To a solution of (E)-tert-butyl 3-(3-(cyclohexylmethylamino)phenyl)allylcarbamate in CH2Cl2 is added MCPBA (77%) followed by Na2CO3. The reaction mixture is stirred at room temperature until no starting material is seen by TLC. Aqueous NaHCO3 (10%) is added and the product is extracted with CH2Cl2 three times. Combined organic layers are washed with brine-NaHCO3, dried over anhydrous Na2SO4 and concentrated under reduced pressure. Purification by flash chromatography (10% to 50% EtOAc—hexanes gradient) gives tert-butyl (3-(3-(cyclohexylmethylamino)phenyl)oxiran-2-yl)methylcarbamate which is used in the next step without further purification.

reactant | (E)-tert-butyl 3-(3-(cyclohexylmethylamino)phenyl)allylcarbamate | C1(CCCCC1)CNC=1C=C(C=CC1)/C=C/CNC(OC(C)(C)C)=O | C21H32N2O2
reactant | MCPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-butyl (3-(3-(cyclohexylmethylamino)phenyl)oxiran-2-yl)methylcarbamate | C1(CCCCC1)CNC=1C=C(C=CC1)C1C(O1)CNC(OC(C)(C)C)=O | C21H32N2O3
